US07939613B2
1,1,2,2-tetrakis(4-hydroxyphenyl)ethylene (DHTPE)
A suspension of 4,4′-dihydroxybenzophenone (3.0 g, 14.0 mmol), 1 equiv of TiCl4 (1.54 ml, 14.0 mmol), and 2 equiv of Zn dust (1.83 g, 28.0 mmol) in 100 ml of dry THF was refluxed for 20 h. The reaction mixture was cooled to room temperature and filtered. The filtrates were evaporated and the crude product was purified by a silica gel column using ethyl acetate (EA) as eluent. DHTPE was obtained as slight yellow powder of 83% yield.

reactant | 4,4′-dihydroxybenzophenone | 14.0 mmol, 3.0 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)O)C=C1 | C13H10O3
solvent | THF | 100 ml | C1CCOC1 | C4H8O
catalyst | TiCl4 | 14.0 mmol, 1.54 ml, 1 equiv | Cl[Ti](Cl)(Cl)Cl
catalyst | Zn | 28.0 mmol, 1.83 g, 2 equiv | [Zn] | Zn
product | 1,1,2,2-tetrakis(4-hydroxyphenyl)ethylene | 83% yield | OC1=CC=C(C=C1)C(=C(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C26H20O4
